US04785101
Step 1. 5-(3-Carboxy-2-methyl-propionyl)-2-hydroxy-benzimidazole
Carbon disulfide (90 ml), 2-hydroxybenzimidazole (4.1 g) and 2-methyl-3-carbomethoxy propionyl chloride (5 g) are added to aluminum chloride (20.3 g) under nitrogen. The resulting mixture is refluxed for about 45 hours, quenched with ice cold 6N HCl and the acidic mixture filtered. The filtered solid is washed with water and dried in vacuo, affording the desired product as a solid, M.P. 223° C. (dec).

reactant | 2-hydroxybenzimidazole | 4.1 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | 2-methyl-3-carbomethoxy propionyl chloride | 5 g | CC(C(=O)Cl)CC(=O)OC | C6H9ClO3
reactant | aluminum chloride | 20.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | Carbon disulfide | 90 ml | C(=S)=S | CS2
product | 5-(3-Carboxy-2-methyl-propionyl)-2-hydroxy-benzimidazole | C(=O)(O)CC(C(=O)C1=CC2=C(N=C(N2)O)C=C1)C | C12H12N2O4
